US06617339B1
5(R)-(2-Methyl-1,3,4-oxadiazol-5-yl)oxymethyl-3-(4-[3,6-dihydro-(2H)-pyran-4-yl]-3-fluorophenyl)oxazolidin-2-one
Sodium hydride (28 mg of a 60% suspension in mineral oil, 0.69 mmol) was added to a solution of 5(R)-hydroxymethyl-3-(4-[3,6-dihydro-(2H)-pyran-4-yl]-3-fluorophenyl)oxazolidin-2-one (0.2 g, 0.69 mmol) in DMSO (5 ml) and the mixture was stirred for 1 hour. 2-Methyl-5-sulfonylmethyl-1,3,4-oxadiazole (RB Woodward et al, (Journal of the American Chemical Society 105, 904 [1983]) (0.11 g, 0.69 mmol) was added and the solution heated at 110° C. for 9 hours. Water (40 ml) was added and the mixture extracted three times with EtOAc. The combined extracts were dried by filtration through phase separation paper (Whatman 1PS) and evaporated. The residue was purified by flash column chromatography, eluting first with EtOAc and then with EtOAc/MeOH (20:1) to give the title product (23 mg, 9%) as a solid (mp 146-147° C.). MS: 376 (MH+).

reactant | Sodium hydride | [H-].[Na+]
reactant | 5(R)-hydroxymethyl-3-(4-[3,6-dihydro-(2H)-pyran-4-yl]-3-fluorophenyl)oxazolidin-2-one | 0.69 mmol, 0.2 g | OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1CCOCC1)F | C15H16FNO4
reactant | 2-Methyl-5-sulfonylmethyl-1,3,4-oxadiazole | CC=1OC(=NN1)C=S(=O)=O | C4H4N2O3S
reactant | Water | 40 ml | O | H2O
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 5(R)-(2-Methyl-1,3,4-oxadiazol-5-yl)oxymethyl-3-(4-[3,6-dihydro-(2H)-pyran-4-yl]-3-fluorophenyl)oxazolidin-2-one | 23 mg, 9% | CC=1OC(=NN1)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1CCOCC1)F | C18H18FN3O5
